### PR TITLE
[Merged by Bors] - feat: two lemmas about (E)NNReal

### PR DESCRIPTION
**Pull request by grunweg**
Extracted from #21433.

---

I'm planning to extract just the "new enorm lemmas" part of that PR, so these helper lemmas might not be needed for *my* PR: they seem worth having anyway, though.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 1]
```diff
@@ -504,6 +504,9 @@ theorem coe_rpow_def (x : ℝ≥0) (y : ℝ) :
     (x : ℝ≥0∞) ^ y = if x = 0 ∧ y < 0 then ⊤ else ↑(x ^ y) :=
   rfl
 
+theorem rpow_ofNNReal {M : ℝ≥0} {P : ℝ} (hP : 0 ≤ P) : (M : ℝ≥0∞).rpow P = ↑(M ^ P) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean:507]: I think this should use the `^` notation rather than `.rpow`, no?

File: Mathlib/Data/ENNReal/Basic.lean [hunk 2]
```diff
@@ -510,6 +510,16 @@ theorem toNNReal_nat (n : ℕ) : (n : ℝ≥0∞).toNNReal = n := by
 theorem toReal_nat (n : ℕ) : (n : ℝ≥0∞).toReal = n := by
   rw [← ENNReal.ofReal_natCast n, ENNReal.toReal_ofReal (Nat.cast_nonneg _)]
 
+lemma _root_.Nat.cast_toNNReal (N : ℕ) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENNReal/Basic.lean:513]: Nit: `n` is more common than `N` for natural arguments

File: Mathlib/Data/ENNReal/Basic.lean [hunk 3]
```diff
@@ -510,6 +510,16 @@ theorem toNNReal_nat (n : ℕ) : (n : ℝ≥0∞).toNNReal = n := by
...
+    (Nat.cast N : ℝ≥0∞).toNNReal = (Nat.cast N : ℝ).toNNReal := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENNReal/Basic.lean:514]: I don't think `Nat.cast` needs to be written out; `(N : ℝ≥0∞).toNNReal = (N : ℝ).toNNReal` works

File: Mathlib/Data/ENNReal/Basic.lean [hunk 4]
```diff
@@ -510,6 +510,16 @@ theorem toNNReal_nat (n : ℕ) : (n : ℝ≥0∞).toNNReal = n := by
...
+  rw [Real.toNNReal_of_nonneg (by positivity), ENNReal.toNNReal_nat]
+  congr
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENNReal/Basic.lean:516]: Perhaps:
```suggestion
  rw [Real.toNNReal_of_nonneg (by positivity), ENNReal.toNNReal_nat, mk_natCast]
```

File: Mathlib/Data/ENNReal/Basic.lean [hunk 5]
```diff
@@ -510,6 +510,16 @@ theorem toNNReal_nat (n : ℕ) : (n : ℝ≥0∞).toNNReal = n := by
...
+
+lemma _root_.Nat.rpow_mul_toNNReal (n k : ℕ) (R : ℝ) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENNReal/Basic.lean:518]: This seems very specific, maybe too much so.

File: Mathlib/Data/ENNReal/Basic.lean [hunk 6]
```diff
@@ -510,6 +510,16 @@ theorem toNNReal_nat (n : ℕ) : (n : ℝ≥0∞).toNNReal = n := by
...
+    n ^ k * R.toNNReal = (n ^ k * R).toNNReal := by
+  norm_cast
+  rw [← ENNReal.toNNReal_nat, Real.toNNReal_mul (by positivity), Nat.cast_toNNReal]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENNReal/Basic.lean:521]: If `NNReal.toNNReal_coe_nat` is marked with `norm_cast`, this could also be
```suggestion
  rw [Real.toNNReal_mul (by positivity)]
  norm_cast
```

File: Mathlib/Data/ENNReal/Basic.lean [hunk 7]
```diff
@@ -510,6 +510,16 @@ theorem toNNReal_nat (n : ℕ) : (n : ℝ≥0∞).toNNReal = n := by
...
+
 @[simp] theorem toReal_ofNat (n : ℕ) [n.AtLeastTwo] : ENNReal.toReal ofNat(n) = ofNat(n) :=
   toReal_nat n
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENNReal/Basic.lean:524]: I think this should stay right next to `toReal_nat`

File: Mathlib/Data/ENNReal/Basic.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENNReal/Basic.lean:513]: I'm not sure about this name - maybe `ENNReal.toNNReal_natCast_eq_toNNReal`? (`ENNReal.toNNReal_natCast` is what `ENNReal.toNNReal_nat` above should be called.)

**Review by Ruben-VandeVelde — COMMENTED** [review]
I'm afraid you fell victim to the fact that tiny PRs can be reviewed in excruciating detail :)

File: Mathlib/Data/ENNReal/Basic.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Data/ENNReal/Basic.lean]: I have renamed the lemmas accordingly, and also done the same for `ENNReal.to{Real,NNReal}_nat`

File: Mathlib/Data/ENNReal/Basic.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Data/ENNReal/Basic.lean:517]: I'm happy to remove this. If another reviewer says do, I'll do it!

File: Mathlib/Data/ENNReal/Basic.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/Data/ENNReal/Basic.lean:520]: Happy to do so: do others believe the lemma should be marked `norm_cast`?

**Comment by grunweg** [comment]
Thanks for the detailed review! I'm happy to learn more, and gladly a fast response in exchange for many comments.

This is ready for review again (except for possible further deprecation warnings downstream, which CI will tell about).

File: Mathlib/Data/ENNReal/Basic.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Data/ENNReal/Basic.lean]: I [asked on zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Naming.20convention/near/500597665), to be more certain. Ok, seems like a dependent PR to prepare...

Comment (grunweg) [reply Mathlib/Data/ENNReal/Basic.lean]: #22071 did this

File: Mathlib/Data/ENNReal/Basic.lean (hunk 5 above)
Comment (j-loreaux) [reply Mathlib/Data/ENNReal/Basic.lean:527]: Agreed, this (`Nat.rpow_mul_toNNReal`) is too specific and should be removed.

**Review by j-loreaux — COMMENTED** [review]
otherwise (after also fixing the PR title):

bors d+

File: Mathlib/Data/ENNReal/Basic.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Data/ENNReal/Basic.lean]: Removed!

**Comment by grunweg** [comment]
bors merge
